US06297250B1
2,6-Dichloro-4,8-di- (N-1,2,3,4-tetrahydroisoquinolyl)pyrimidopyrimidine (NU3075)
To a solution of 2,4,6,8-tetrachloropyrimidopyrimidine (0.54 g, 8.0 mmol) in THF (50 ml) was added a solution of 1,2,3,4-tetrahydroisoquinoline (1.0 ml) in THF (15 ml) dropwise over 10 minutes. The mixture was stirred for 12 hours at 25° C., the resultant solid was removed by filtration. The filtrate was evaporated under reduced pressure to afford a brown solid. Chromatography on silica gel, employing petrol:EtOAc (8:2) as eluent, afforded the title compound as a pale brown powder (0.27 g, 7%).

reactant | 2,4,6,8-tetrachloropyrimidopyrimidine | 8.0 mmol, 0.54 g | ClC=1N=C(C2=C(C(=NC(=N2)Cl)Cl)N1)Cl | C6Cl4N4
reactant | 1,2,3,4-tetrahydroisoquinoline | 1.0 ml | C1NCCC2=CC=CC=C12 | C9H11N
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | 2,6-Dichloro-4,8-di- (N-1,2,3,4-tetrahydroisoquinolyl)pyrimidopyrimidine | 0.27 g, 7% | ClC=1N=C(C2=C(C(=NC(=N2)Cl)N2CC3=CC=CC=C3CC2)N1)N1CC2=CC=CC=C2CC1 | C24H20Cl2N6
